US04900743
4-Methyl-5-methylsulfinyl-3-(4-pyridyl)-4H-1,2,4-triazole
To a stirred, 0° C., solution of 4-methyl-5-methylthio-3-(4-pyridyl)-4H-1,2,4-triazole (4.54 g, 2.2×10-2 mole) and CH2Cl2 (125 ml) was added portionwise m-chloroperoxybenzoic acid (4.83 g, 2.24×10-2 mole, 80% active MCPBA). After stirring overnight the reaction was diluted with CH2Cl2 until homogeneous. The CH2Cl2 solution was then washed with saturated aqueous NaHCO3 and saturated aqueous NaCl. After drying over anhydrouse Na2SO4, the CH2Cl2 was evaporated at reduced pressure to give the desired product.

reactant | 4-methyl-5-methylthio-3-(4-pyridyl)-4H-1,2,4-triazole | 2.2×10-2 mole, 4.54 g | CN1C(=NN=C1SC)C1=CC=NC=C1 | C9H10N4S
reactant | m-chloroperoxybenzoic acid | 2.24×10-2 mole, 4.83 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 125 ml | C(Cl)Cl | CH2Cl2
product | 4-Methyl-5-methylsulfinyl-3-(4-pyridyl)-4H-1,2,4-triazole | CN1C(=NN=C1S(=O)C)C1=CC=NC=C1 | C9H10N4OS
